US08975254B2
(S)—N-(1-(3-(3-chloro-4-cyano-5-fluorophenyl)-1H-pyrazol-1-yl)propan-2-yl)-1-(6-methylpyridin-2-yl)-1H-imidazole-4-carboxamide
The title compound was prepared using the method of Example 34(d) starting from 1-(6-methylpyridin-2-yl)-1H-imidazole-4-carboxylic acid (0.190 g, 0.933 mmol) and (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chloro-6-fluorobenzonitrile (0.2 g, 0.718 mmol). The product was purified by recrystallization from acetonitrile. Yield 55.3%. 1H-NMR (400 MHz; DMSO-d6): δ 1.13 (d, 3H), 2.53 (s, 3H), 4.31-4.52 (m, 3H), 7.01 (d, 1H), 7.29 (d, 1H), 7.72 (d, 1H), 7.87-7.96 (m, 3H), 8.02-8.04 (m, 1H), 8.35 (d, 1H), 8.40 (d, 1H), 8.58 (d, 1H).

reactant | 1-(6-methylpyridin-2-yl)-1H-imidazole-4-carboxylic acid | 0.933 mmol, 0.190 g | CC1=CC=CC(=N1)N1C=NC(=C1)C(=O)O | C10H9N3O2
reactant | (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chloro-6-fluorobenzonitrile | 0.718 mmol, 0.2 g | N[C@H](CN1N=C(C=C1)C1=CC(=C(C#N)C(=C1)F)Cl)C | C13H12ClFN4
product | (S)—N-(1-(3-(3-chloro-4-cyano-5-fluorophenyl)-1H-pyrazol-1-yl)propan-2-yl)-1-(6-methylpyridin-2-yl)-1H-imidazole-4-carboxamide | Yield 55.3% | ClC=1C=C(C=C(C1C#N)F)C1=NN(C=C1)C[C@H](C)NC(=O)C=1N=CN(C1)C1=NC(=CC=C1)C | C23H19ClFN7O
